US07855206B2
To a solution of (2R,3S)-5-methylene-2-(2,4,5-trifluorophenyl)tetrahydro-2H-pyran-3-amine (177 mg, 0.73 mmole) in dichloromethane (5 mL) was added di-tert-butyl dicarbonate (239 mg, 1.1 mmol) and the mixture stirred for 2.5 hours at room temperature. The solution was evaporated under reduced pressure to give tert-butyl [(2R,3S)-5-methylene-2-(2,4,5-trifluorophenyl)tetrahydro-2H-pyran-3-yl]carbamate as a white solid. It was used in the next step without further purification.

reactant | (2R,3S)-5-methylene-2-(2,4,5-trifluorophenyl)tetrahydro-2H-pyran-3-amine | 0.73 mmole, 177 mg | C=C1C[C@@H]([C@H](OC1)C1=C(C=C(C(=C1)F)F)F)N | C12H12F3NO
reactant | di-tert-butyl dicarbonate | 1.1 mmol, 239 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | tert-butyl [(2R,3S)-5-methylene-2-(2,4,5-trifluorophenyl)tetrahydro-2H-pyran-3-yl]carbamate | C=C1C[C@@H]([C@H](OC1)C1=C(C=C(C(=C1)F)F)F)NC(OC(C)(C)C)=O | C17H20F3NO3
